US05631206
Preparation of N-[2-(6-bromo-2-pyridinyl)-4-methylphenyl]-2,2-dimethylpropanamide.
A mixture of 24 g (0.1 mol) 2,6-dibromopyridine, 0.250 g palladium bis(triphenylphosphine) dichloride, and 40 mL dimethoxyethane was stirred under nitrogen for 20 min, after which 12 g (0.05 mol) N-(2-borono4-methylphenyl)-2,2-dimethylpropanamide and a solution of 26 g sodium bicarbonate in 300 mL water was added, and the mixture heated to reflux for 5 h. After cooling to 50° C., 50 mL ethyl acetate was added and stirred until it reached room temperature. The reaction mixture was diluted with 300 mL ethyl acetate and washed successively with water and brine. The organic extracts were dried over magnesium sulfate, filtered, and evaporated to dryness. The crude product was purified by chromatography on silica using 20:1 chlorobutane/ethyl acetate mixture as eluent to yield 13.1 g of the title compound as light tan crystals melting at 120°-126° C. 1H NMR (CDCl3): δ 1.28 (s,9H), 2.40 (s,3H), 7.30-8.4 (6H), 10.9 (s,1H,NH).

reactant | 2,6-dibromopyridine | 0.1 mol, 24 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | dimethoxyethane | 40 mL | C(OC)COC | C4H10O2
reactant | N-(2-borono4-methylphenyl)-2,2-dimethylpropanamide | 0.05 mol, 12 g | B(O)(O)C1=C(C=CC(=C1)C)NC(C(C)(C)C)=O | C12H18BNO3
reactant | sodium bicarbonate | 26 g | C([O-])(O)=O.[Na+]
solvent | water | 300 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium bis(triphenylphosphine) dichloride | 0.250 g | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(6-bromo-2-pyridinyl)-4-methylphenyl]-2,2-dimethylpropanamide | 13.1 g | BrC1=CC=CC(=N1)C1=C(C=CC(=C1)C)NC(C(C)(C)C)=O | C17H19BrN2O
